US06863701B2
The benzyl alcohols, 2-phenylethanol, 9-fluorenemethanol, 9-anthracenemethanol, 2-chloroethylvinyl ether, cyclohexene oxide and 4-vinylcyclohexene dioxide (VCHDO) were used as purchased from the Aldrich Chemical Co. (Milwaukee, Wis.) unless otherwise noted. PC-1000 was supplied by the Polyset Co. (Mechanicville, N.Y.). Bis(3-ethyl-3-oxetanylmethyl)ether was kindly supplied by Toagosei Chemical Company, LTD (Nagoya, Japan). Limonene dioxide (LDO) was obtained as a gift from the Witco Chemical Co. (Blooming Prairie, Minn.). 3,4-Epoxycyclohexyl methyl 3′,4′-epoxycyclohexancarboxylate (ERL-4221E, ERL) was purchased from the Union Carbide Corp. (Bound Brook, N.J.). Bisphenol-A diglycidyl ether (BPADGE) was obtained from the Dow Chemical Co. (Midland, Mich.). Onium salt cationic photoinitiators, (4-n-decyloxyphenyl) phenyliodonium hexafluoroantimonate (IOC10), (4-n-decyloxyphenyl)diphenylsulfonium hexafluoroantimonate (SOC10) and S-methyl-S-n-dodecylphenacylsulfonium hexafluoroantimonate (DPS-C1C12) were prepared as described in the following references: IOC-10—Crivello, J. V.; Lee, J. L. J. Polym. Sci. Part A: Polym. Chem. Ed. 1989, 27, 3951, SOC10—Akhtar, S. R.; Crivello, J. V.; Lee, J. L. J. Org. Chem. 1990, 55, 4222 and DPS-C1C12—Crivello, J. V.; Kong, S Macromolecules 2000, 33, 833. The structures of the respective monomers and photoinitiators are shown in Table 1. 1H NMR spectra were obtained using a Varian XL 500 MHz spectrometer at room temperature in CDCl3 using tetramethylsilane as an internal standard.

reactant | 2-phenylethanol | C1(=CC=CC=C1)CCO | C8H10O
reactant | 9-fluorenemethanol | C1=CC=CC=2C3=CC=CC=C3C(C12)CO | C14H12O
reactant | 9-anthracenemethanol | C1=CC=CC2=CC3=CC=CC=C3C(=C12)CO | C15H12O
reactant | 2-chloroethylvinyl ether | ClCCOC=C | C4H7ClO
reactant | cyclohexene oxide | C12C(CCCC1)O2 | C6H10O
reactant | 4-vinylcyclohexene dioxide | C1CC2C(O2)CC1C3CO3 | C8H12O2
reactant | Bis(3-ethyl-3-oxetanylmethyl)ether | C(C)C1(COC1)COCC1(COC1)CC | C12H22O3
product | Limonene dioxide | CC12CCC(CC1O2)C3(CO3)C | C10H16O2
